US05891901
To a solution of 1-methyl-6-methylsulfanyl-1H-indole (658 mg, 3.71 mmol) in Et2O(7 ml) at 0° C., was added oxalyl chloride (0.55 ml, 6.31 mmol). After stirring for 3 hours, the orange solid was collected, washed with Et2O, and dried to afford (1-methyl-6-methylsulfanyl-1H-indol-3-yl)-oxo-acetyl chloride (819 mg, 66%).

reactant | 1-methyl-6-methylsulfanyl-1H-indole | 3.71 mmol, 658 mg | CN1C=CC2=CC=C(C=C12)SC | C10H11NS
reactant | oxalyl chloride | 6.31 mmol, 0.55 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | Et2O | 7 ml | CCOCC | C4H10O
product | (1-methyl-6-methylsulfanyl-1H-indol-3-yl)-oxo-acetyl chloride | 819 mg, 66% | CN1C=C(C2=CC=C(C=C12)SC)C(C(=O)Cl)=O | C12H10ClNO2S
